US08557756B2
Preparation of Sodium 2-Decan-2-yloxypropane-1,3-disulfonate (“C10 Disulfonate”)
The compounds are made substantially as described in Example 2A above, using appropriate substitutions of starting materials (138.6 g of 1,3-dichloro-2-propan-2-yloxydecane, 112.5 g of sodium sulfite, 39.0 g of sodium meta-bisulfite, 34.52 g of sodium carbonate, 550.43 g of water, 190° C., 20 hours). Following reaction, the reaction mixture is cooled to ambient temperature and unloaded to afford 826.5 g of light brown reaction product.

reactant | 1,3-dichloro-2-propan-2-yloxydecane | 138.6 g | ClCC(C(CCCCCCC)Cl)OC(C)C | C13H26Cl2O
reactant | sodium sulfite | 112.5 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium meta-bisulfite | 39.0 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium carbonate | 34.52 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 550.43 g | O | H2O
product | Sodium 2-Decan-2-yloxypropane-1,3-disulfonate | CC(CCCCCCCC)OC(CS(=O)(=O)[O-])CS(=O)(=O)[O-].[Na+].[Na+] | InChI=1S/C13H28O7S2.2Na/c1-3-4-5-6-7-8-9-12(2)20-13(10-21(14,15)16)11-22(17,18)19;;/h12-13H,3-11H2,1-2H3,(H,14,15,16)(H,17,18,19);;/q;2*+1/p-2
